Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Cervical stenosis 
 
Major Surgical or Invasive Procedure:
___ - C3-C7 laminectomies, C3-C6 posterior fusion
 
History of Present Illness:
___ is a ___ year old male who is known to the 
Neurosurgery Service and Dr. ___ a recent 
admission status post slip and fall ___ feet found to have 
cervical stenosis. The patient demonstrated an improved 
neurologic exam throughout his hospitalization, and he was 
discharged to rehabilitation with plans to return for operative 
intervention. He presented electively on ___ for C3-C7 
laminectomies and C3-C6 posterior fusion.
 
Past Medical History:
- cervical stenosis
- status post orchiectomy
- status post right inguinal hernia repair
 
Social History:
___
Family History:
Noncontributory.

 
Physical Exam:
On Discharge:
-------------
General:

Vital Signs: T 98.7F, HR 67, BP 133/72, RR 20, O2Sat 95% on room 
air

Exam:

Opens Eyes: [x]Spontaneous [ ]To voice [ ]To noxious
Orientation: [x]Person [x]Place [x]Time
Follows Commands: [ ]Simple [x]Complex [ ]None
Speech Fluent: [x]Yes [ ]No
Comprehension Intact: [x]Yes [ ]No

Motor:

        Trapezius   Deltoid   Biceps   Triceps   Grip
Right   5           5         5        5         4
Left    5           5         5        5         4

        IP   Quadriceps   Hamstring   AT   ___   Gastrocnemius
Right   5    5            5           5    5     5     
Left5    5            5           5    5     5

Sensation: Intact to light touch.

Surgical Incision:
[x]Clean, dry, intact
[x]Staples
 
Pertinent Results:
Please see ___ Record for relevant laboratory and 
imaging results.
 
Brief Hospital Course:
___ year old male status post slip and fall ___ feet found to 
have cervical stenosis.

#Cervical Stenosis
The patient presented electively as scheduled on ___ for 
C3-C7 laminectomies and C3-C6 posterior fusion with Dr. 
___. The patient was taken to the operating room. The 
procedure was uncomplicated. Please see ___ Record 
for further intraoperative details. The patient was extubated in 
the operating room and recovered in the post anesthesia care 
unit. He was then transferred to the floor for close neurologic 
monitoring. The patient remained neurologically stable 
postoperatively. Postoperative x-rays of the cervical spine 
showed no evidence of hardware complications. A surgical drain 
was left in place postoperatively and was subsequently removed 
on postoperative day two without complications. On ___, the 
patient was afebrile with stable vital signs, ambulating with 
assistance, tolerating a diet, voiding and stooling without 
difficulty, and his pain was well controlled with oral pain 
medications. He was discharged to rehabilitation on ___ in 
stable condition. He will continue in his hard cervical collar.  


#Disposition
Physical Therapy was consulted, evaluated the patient, and 
recommended discharge to rehabilitation. The patient was 
discharged to rehabilitation on ___ in stable condition.
 
Medications on Admission:
- acetaminophen 650mg by mouth every 4 hours as needed for pain
- aspirin 81mg by mouth once daily
- diazepam 5mg by mouth every 6 hours as needed for muscle 
spasms
- omeprazole delayed release 20mg by mouth once daily
- tamsulosin 0.4mg by mouth once daily
 
Discharge Medications:
1.  Baclofen 5 mg PO TID 
___ wean off as tolerated.  
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
___ discontinue if not constipated.  
3.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
___ wean off as tolerated.  
4.  Senna 8.6 mg PO DAILY:PRN Constipation 
___ discontinue if not constipated.  
5.  Acetaminophen 1000 mg PO Q8H 
Do not exceed 3000mg in 24 hours. ___ wean off as tolerated.  
6.  Diazepam 2 mg PO Q8H:PRN Muscle spasms 
___ wean off as tolerated.  
7.  Omeprazole 20 mg PO DAILY  
8.  Tamsulosin 0.4 mg PO QHS  
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Cervical stenosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory with assistance.
 
Discharge Instructions:
Surgery:
- Your surgical incision is closed with staples. You will need 
staple removal ___ days after surgery.
- Do not apply any lotions or creams to the surgical incision. 
- Please keep your surgical incision dry until your staples are 
removed.
- Please avoid swimming for two weeks after staple removal.
- Call your neurosurgeon if there are any signs of infection 
like fever, redness, or drainage.

Activity:
- You must wear your cervical collar at all times. The collar 
helps with healing and alignment of the fusion.
- You may remove your cervical collar briefly for skin care. Do 
not bend or twist your neck while the cervical collar is off. It 
is important to look at your skin and be sure there are no 
wounds forming.
- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up.
- You may take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.
- No driving while taking narcotics or any other sedating 
medications.
- No contact sports until cleared by your neurosurgeon. 
- Do NOT smoke. Smoking can affect your healing and fusion.

Medications:
- You were taking aspirin 81mg once daily at home. You may 
resume this medication upon discharge. 
- Please do NOT take any other blood thinning medications 
(ibuprofen, Coumadin, Plavix, etc.) until cleared by your 
neurosurgeon.
- Do not take any anti-inflammatory medications such as Advil, 
ibuprofen, Motrin, etc. until cleared by your neurosurgeon.
- You may use acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

When To Call Your Neurosurgeon At ___:
- Severe pain, swelling, redness, or drainage from the surgical 
incision. 
- Fever greater than 101.5 degrees Fahrenheit.
- New weakness or changes in sensation in your arms or legs.
 
Followup Instructions:
___